US05278134
3-(N,N-dimethylaminooxoacetyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methyl pyridine
To a stirred solution of 2.5 g (0.011 mole) of 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2 -yl)-5-methyl pyridine in 100 ml of dry tetrahydrofuran cooled to -70° C. under the presence of nitrogen was added dropwise a 9.68 ml of 2.5 molar n-butyllithium, thereby temperature was maintained below -65° C. The solution was stirred at -70° C. for 3 hours and a solution 1.96 g of N,N-dimethyl oxamic acid methyl ester(0.015 mole) in 10 ml of anhydrous tetrahydrofuran was added dropwise while maintaining the temperature below -65° C. After stirring another hour at -70° C., the solution was poured into water and extracted with methylene chloride. The combined organic phases were dried over magnesium sulfate, and evaporated under reduced pressure. Trituration of the residue with diethyl ether affored a crude solid which was recrystallized from a mixture of diethyl ether and methylene chloride to yield 1.67 g of a white solid (m.p=180°-182° C.).

reactant | 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2 -yl)-5-methyl pyridine | 0.011 mole, 2.5 g | C(C)(C)C1(C(N=C(N1)C1=NC=C(C=C1)C)=O)C | C13H17N3O
reactant | n-butyllithium | 2.5 molar, 9.68 ml | C(CCC)[Li]
reactant | N,N-dimethyl oxamic acid methyl ester | 0.015 mole, 1.96 g | COC(C(=O)N(C)C)=O | C5H9NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(N,N-dimethylaminooxoacetyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methyl pyridine | 1.67 g | CN(C)C(C(=O)C=1C(=NC=C(C1)C)C=1NC(C(N1)(C)C(C)C)=O)=O | C17H22N4O3
